US06703504B2
Synthesis of 1,1-bis-(3-Methoxyphenyl)ethene
5.28 g (20 mmoles) of 1,1-bis(3-methoxyphenyl)ethanol are dissolved in 30 mL of glacial acetic acid. A catalytical amount of iodine is added and the solution refluxed for about 5-15 minutes or until the dehydration is complete. The progress of the reaction is monitored by TLC on silica (5% EtOAc in hexanes). The burgundy red solution is diluted with water (100 mL) and the product extracted with ether (2-3 extractions with 10 mL portions). The combined ethereal extracts are washed consecutively with water (into which a spatula tip of sodium metabisulfite was added) and 10% sodium carbonate, dried over anh. K2CO3 and evaporated to yield 4.63 g (96%) of the title compound. 1H NMR (CDCl3): 6.8-7.3 (m, ArH, 8H), 5.45(s, C═CH2, 2H), 3.75 (s, OCH3, 6H).

reactant | 1,1-bis(3-methoxyphenyl)ethanol | 20 mmoles, 5.28 g | COC=1C=C(C=CC1)C(C)(O)C1=CC(=CC=C1)OC | C16H18O3
reactant | iodine | II | I2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 1,1-bis-(3-Methoxyphenyl)ethene | 4.63 g, 96% | COC=1C=C(C=CC1)C(=C)C1=CC(=CC=C1)OC | C16H16O2
